US07737166B2
4-Cyano-7-fluoro-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide (I-185)
6-Bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide (I-127) (500 mg, 1.53 mmol), 2,6-di-tert-butylcresol (3 grains) and tetrakis(triphenylphosphine)palladium(0) (177 mg, 0.15 mmol) were dissolved in 1,4-dioxane (10 ml), then at room temperature, tributylvinyltin (601 μl, 1.99 mmol) was added, followed by stirring under nitrogen atmosphere at 100° C. for 17 hours. After cooling to room temperature, the insoluble matter was separated by filtration with washing with ethyl acetate. The filtrate was washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the organic layer was washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away, the resulting residue was dissolved in tetrahydrofuran (10 ml) and water (5 ml), and at room temperature, potassium fluoride (1.782 g, 30.66 mmol) was added. After vigorously stirring at the same temperature for 23 hours, the reaction liquid was fractionated with ethyl acetate and saturated brine. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=3:1) to obtain the entitled compound (261 mg, 62%) as a white solid.

reactant | 6-Bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide | 1.53 mmol, 500 mg | BrC1=C(C2=C(N=C(O2)C(=O)N(C)C)C(=C1C)C#N)F | C12H9BrFN3O2
reactant | 2,6-di-tert-butylcresol | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
reactant | tributylvinyltin | 1.99 mmol, 601 μl | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | potassium fluoride | 30.66 mmol, 1.782 g | [F-].[K+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 177 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-7-fluoro-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide | 261 mg, 62% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C=C)C | C14H12FN3O2
